US08222248B2
To a solution of 3-{4-[6-(isoquinolin-1-ylcarbamoyl)-1H-benzoimidazol-2-yl]-3,5-dimethylphenyl}-propionic acid methyl ester (85 mg) in MeOH (2 mL) was added 0.5 mL of 1.0 N NaOH and the mixture was stirred at ambient temperature for 18 h. To this solution was added 0.5 mL of 1.0 N HCl then the solvent was removed under reduced pressure. Water was added and the mixture was extracted with EtOAc. The organic phase was dried over sodium sulfate and the solvent was removed under reduced pressure. The residue was triturated with MeCN to give 3-{4-[6-(isoquinolin-1-ylcarbamoyl)-1H-benzoimidazol-2-yl]-3,5-dimethylphenyl}-propionic acid as a tan solid. MS (ESI) m/z 465.1 (M+H), retention time=1.01 min, Method 10.

reactant | 3-{4-[6-(isoquinolin-1-ylcarbamoyl)-1H-benzoimidazol-2-yl]-3,5-dimethylphenyl}-propionic acid methyl ester | 85 mg | COC(CCC1=CC(=C(C(=C1)C)C1=NC2=C(N1)C=C(C=C2)C(NC2=NC=CC1=CC=CC=C21)=O)C)=O | C29H26N4O3
reactant | NaOH | 1.0 N, 0.5 mL | [OH-].[Na+]
reactant | HCl | 1.0 N, 0.5 mL | Cl | ClH
solvent | MeOH | 2 mL | CO | CH4O
product | 3-{4-[6-(isoquinolin-1-ylcarbamoyl)-1H-benzoimidazol-2-yl]-3,5-dimethylphenyl}-propionic acid | C1(=NC=CC2=CC=CC=C12)NC(=O)C=1C=CC2=C(NC(=N2)C2=C(C=C(C=C2C)CCC(=O)O)C)C1 | C28H24N4O3
